US09108939B2
4-(Bromomethyl)-2-chloro-1-nitrobenzene (17.21 mmol, 4.31 g) and triethyl phosphite (25.8 mmol, 4.34 mL, 4.29 g) were combined and heated to 100° C. for 4 hours. The reaction mixture was quenched with water and extracted into ether. The organic phase was concentrated under vacuum. The resulting residue was purified by silica chromatography (eluting with dichloromethane-2% dichloromethane/methanol) to give the intermediate diethyl 3-chloro-4-nitrobenzylphosphonate (2.54 g).

reactant | 4-(Bromomethyl)-2-chloro-1-nitrobenzene | 17.21 mmol, 4.31 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | triethyl phosphite | 25.8 mmol, 4.34 mL, 4.29 g | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl 3-chloro-4-nitrobenzylphosphonate | 2.54 g | ClC=1C=C(CP(OCC)(OCC)=O)C=CC1[N+](=O)[O-] | C11H15ClNO5P
